US04102888
Step C. Preparation of 7-[2-(3-Oxo-5-phenyl-1-trans-pentenyl)-4-oxo-3-thiazolidinyl]heptanoic Acid
Dimethyl 2-oxo-4-phenylbutylphosphonate (1 molar equivalent) is added dropwise over a 1/2 hour period to a stirred suspension of sodium hydride (2equivalents) in 1,2-dimethoxyethane maintained at or below 20° C. To the resulting reaction mixture is slowly added 7-(2-formyl-4-oxo-3-thiazolidinyl)heptanoic acid (1 molar equivalent) with good stirring and cooling (sufficient to maintain a reaction temperature at or below 20° C.). Upon completing this addition, the reaction is stirred at ambient temperature for 1 hour, then heated at reflux for 1/2 hour, cooled to room temperature, and diluted with water. The aqueous mixture is acidified with dilute hydrochloric acid and extracted with ether. The organic extract is dried over sodium sulfate, filtered, and evaporated in vacuo at 40° C. leaving the title compound as an oily residue which is purified chromatographically on silica gel.

reactant | Dimethyl 2-oxo-4-phenylbutylphosphonate | 1 molar | O=C(CP(OC)(OC)=O)CCC1=CC=CC=C1 | C12H17O4P
reactant | sodium hydride | 2equivalents | [H-].[Na+]
reactant | 7-(2-formyl-4-oxo-3-thiazolidinyl)heptanoic acid | 1 molar | C(=O)C1SCC(N1CCCCCCC(=O)O)=O | C11H17NO4S
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | water | O | H2O
product | 7-[2-(3-Oxo-5-phenyl-1-trans-pentenyl)-4-oxo-3-thiazolidinyl]heptanoic Acid | O=C(/C=C/C1SCC(N1CCCCCCC(=O)O)=O)CCC1=CC=CC=C1 | C21H27NO4S
